US06492348B1
(2R,3R,4S,5R)-2-(2H-Pyrazol-3-yl)-5-(6-tetrahydro-pyran-4-ylamino-purin-9yl)-tetrahydro-furan-3,4-diol
(2R,3R,4S,5R)-2-(6-Chloro-purin-9-yl)-5-(2H-pyrazol-3-yl)-tetrahydro-furan-3,4-diol (35 mg) was dissolved in isopropanol (3 ml), N,N-di-isopropylethylamine (0.12 ml) and tetrahydro-pyran-4-ylamine hydrochloride (46 mg) were added, and the resulting solution was heated under reflux under nitrogen for 17 h. The solvent was removed in vacuo, the residue dissolved in methanol (10 ml), and 8% sodium bicarbonate (3 ml) added, followed by silica gel (3 g). The solvents were removed in vacuo and the residue added to a flash column of silica gel packed in dichloromethane. Elution with dichloromethane-methanol (4:1) afforded the title compound as a clear viscous gum (5.2 mg).

reactant | (2R,3R,4S,5R)-2-(6-Chloro-purin-9-yl)-5-(2H-pyrazol-3-yl)-tetrahydro-furan-3,4-diol | 35 mg | ClC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C=1NN=CC1 | C12H11ClN6O3
reactant | N,N-di-isopropylethylamine | 0.12 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tetrahydro-pyran-4-ylamine hydrochloride | 46 mg | Cl.O1CCC(CC1)N
solvent | isopropanol | 3 ml | C(C)(C)O | C3H8O
product | (2R,3R,4S,5R)-2-(2H-Pyrazol-3-yl)-5-(6-tetrahydro-pyran-4-ylamino-purin-9yl)-tetrahydro-furan-3,4-diol | 5.2 mg | N=1NC(=CC1)[C@H]1O[C@H]([C@H]([C@H]1O)O)N1C2=NC=NC(=C2N=C1)NC1CCOCC1 | C17H21N7O4
